US03966950
8 ml of ethanol were added to a mixture of 8.9 g of 4-(o-methoxyphenyl)-1-chloroethyl-piperazine .HCl in 20 g of an aqueous solution of 34.88% methylamine and the mixture was stirred for 1 hour at room temperature and then for 4 hours at reflux. The ethanol was evaporated and after cooling the mixture, 5 g of sodium hydroxide pellets were added thereto. The mixture was extracted with ethyl ether and the extracts were dried over potassium carbonate and the solvent was evaporated. The oily residue was distilled to obtain 2.6 g of 4-(o-methoxyphenyl)-1-(β-methylaminoethyl)-piperazine in the form of a yellow oil boiling at 153°C under 0.2 mm Hg. The oil was soluble in ethanol and ethyl ether and slightly soluble in water.

reactant | 4-(o-methoxyphenyl)-1-chloroethyl-piperazine | 8.9 g | COC1=C(C=CC=C1)N1CCN(CC1)C(C)Cl | C13H19ClN2O
reactant | HCl | Cl | ClH
reactant | methylamine | CN | CH5N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 4-(o-methoxyphenyl)-1-(β-methylaminoethyl)-piperazine | 2.6 g | COC1=C(C=CC=C1)N1CCN(CC1)CCNC | C14H23N3O
